US08431575B2
To a stirred solution of (±)-trans-4-azidomethyl-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester (1.35 mmol, 350 mg) in dichloromethane (6 mL) was added bis-(2-methoxyethy) aminosulfur trifluoride (1.62 mmol, 358 mg) at −40° C. After stirring the reaction at −40° C. for 3 h, saturated sodium bicarbonate solution (6 mL) was added, and the product was extracted with dichloromethane (6 mL). The organic layer was dried over sodium sulfate and concentrated. The crude product was purified using hexane:ethyl acetate to provide (±)-cis-4-azidomethyl-3-fluoro-piperidine-1-carboxylic acid tert-butyl ester.

reactant | (±)-trans-4-azidomethyl-3-hydroxy-piperidine-1-carboxylic acid tert-butyl ester | 1.35 mmol, 350 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)CN=[N+]=[N-])O | C11H20N4O3
reactant | bis-(2-methoxyethy) aminosulfur trifluoride | 1.62 mmol, 358 mg | COCCN(CCOC)S(F)(F)F | C6H14F3NO2S
reactant | sodium bicarbonate | 6 mL | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | (±)-cis-4-azidomethyl-3-fluoro-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@H](CC1)CN=[N+]=[N-])F | C11H19FN4O2
